US08604029B2
To a solution of 2-isopropyl-4-[1-methyl-1-(3-nitro-phenyl)-ethyl]-1H-imidazole (0.35 g, 1.28 mmol) in THF (2 mL) was added potassium carbonate (0.21 g, 1.5 mmol) and iodomethane (0.12 mL, 1.92 mmol). The mixture was heated at 50° C. for 5 h then concentrated in vacuo. The residue was partitioned between water and DCM then the organic phase was dried over sodium sulfate and evaporated to afford 2-isopropyl-1-methyl-4-[1-methyl-1-(3-nitro-phenyl)-ethyl]-1H-imidazole (0.2 g, 56%) as colourless semisolid.

reactant | 2-isopropyl-4-[1-methyl-1-(3-nitro-phenyl)-ethyl]-1H-imidazole | 1.28 mmol, 0.35 g | C(C)(C)C=1NC=C(N1)C(C)(C1=CC(=CC=C1)[N+](=O)[O-])C | C15H19N3O2
reactant | potassium carbonate | 1.5 mmol, 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.92 mmol, 0.12 mL | IC | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-isopropyl-1-methyl-4-[1-methyl-1-(3-nitro-phenyl)-ethyl]-1H-imidazole | 0.2 g, 56% | C(C)(C)C=1N(C=C(N1)C(C)(C1=CC(=CC=C1)[N+](=O)[O-])C)C | C16H21N3O2
